US07186729B2
Step 1:1-(4-Chloro-phenyl)-4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclo hepten-5-ylidene]-propyl}-piperazine-2-carbonitrile
To a solution of 2-(5-{3-[2-(4-chloro-phenylamino)-ethylamino]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol (0.4 g, 0.86 mmol) in toluene (6 mL) was added triethylamine (0.48 mL, 3.44 mmol) and 2,3-dibromopropionitrile (0.19 mL, 1.72 mmol) and reaction mixture was heated to 110° C. (reflux) and stirred overnight for 18 h. The reaction mixture was concentrated in vacuo and the residue was diluted with ethyl acetate and extracted with 1.0N NaOH solution. The aqueous layer was back extracted twice with ethyl acetate. The combined organics were dried over sodium sulfate and concentrated. The crude product was purified using a short plug of silica gel using ethyl acetate to give the title compound. 1H-NMR (CDCl3) δ: 1.05 (6H, s), 2.20–2.70 (8H, 2×m), 3.00 (1H, m), 3.10–3.40 (3H, 2×m), 4.50 (1H, br, s), 5.30 (2H, br, s), 6.20 (1H, t), 6.70–6.90 (3H, 2×d), 7.10–7.35 (4H, m), 7.50 (2H, d), 8.50 (1H, dd). ESI-MS m/z: 515 (M+1), UV retention time: 2.36 min.

reactant | 2-(5-{3-[2-(4-chloro-phenylamino)-ethylamino]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol | 0.86 mmol, 0.4 g | ClC1=CC=C(C=C1)NCCNCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C27H30ClN3O2
reactant | triethylamine | 3.44 mmol, 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | 2,3-dibromopropionitrile | 1.72 mmol, 0.19 mL | BrC(C#N)CBr | C3H3Br2N
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Chloro-phenyl)-4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclo hepten-5-ylidene]-propyl}-piperazine-2-carbonitrile | ClC1=CC=C(C=C1)N1C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)C#N | C30H31ClN4O2
